US04861580
Pilocarpine - Alpha Tocopherol Hemisuccinate
Five grams of pilocarpine base were added to a weighed 500 ml round bottom flask and stopper, and the total mass in grams recorded. D-alpha-tocopherol acid succinate (12.75 g, corresponding to a 1:1M ratio of pilocarpine:D-alpha-tocopherol) was added to the flask and the contents again weighed. Methylene chloride (50 ml) was added and the flask agitated to dissolve the solids and the flask again weighed. The flask was placed on a rotary evaporator in a water bath at 55° C. and rotated for 30 minutes (no vacuum applied). After 30 minutes, the flask and contents were again weighed, then rotary evaporated with vacuum at 55° C. The weight of the flask was recorded every 30 minutes thereafter until two successive weighings were within 0.1 g. The preparation was then cooled to room temperature (25° C.), stoppered, and stored at 4° C.

reactant | pilocarpine | Five grams | CC[C@H]1[C@H](COC1=O)CC2=CN=CN2C | C11H16N2O2
reactant | D-alpha-tocopherol acid succinate | CC1=C2C(=C(C(=C1C)OC(=O)CCC(=O)O)C)CC[C@@](O2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C | C33H54O5
reactant | D-alpha-tocopherol | CC1=C(C(=C2CC[C@@](OC2=C1C)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C)O | C29H50O2
solvent | Methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Pilocarpine Alpha Tocopherol Hemisuccinate | CC[C@H]1[C@H](COC1=O)CC2=CN=CN2C.CC1=C2C(=C(C(=C1C)OC(=O)CCC(=O)O)C)CC[C@@](O2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C | InChI=1S/C33H54O5.C11H16N2O2/c1-22(2)12-9-13-23(3)14-10-15-24(4)16-11-20-33(8)21-19-28-27(7)31(25(5)26(6)32(28)38-33)37-30(36)18-17-29(34)35;1-3-10-8(6-15-11(10)14)4-9-5-12-7-13(9)2/h22-24H,9-21H2,1-8H3,(H,34,35);5,7-8,10H,3-4,6H2,1-2H3/t23-,24-,33-;8-,10-/m10/s1
